US07576099B2
Preparation of (e)-2-methyl-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid
A mixture of 4-bromo-2-methylbenzoic acid (25 g, 0.12 mol), tri-o-tolylphosphine (7.1 g, 0.023 mol), tetra-N-butylammonium chloride (9.7 g, 0.035 mol), potassium acetate (22.8 g, 0.232 mol), 3,3,3-trifluoroprop-1-ene (89 g, 0.93 mol), palladium acetate (1.3 g, 0.0058 mol) and N,N-dimethylacetamide (150 mL, 1.6 mol) was sealed in a Parr instrument and stirred at 180° C. for 120 h. After cooling, the reaction mixture was filtered through Celite® and the filtrate was partitioned between EtOAc and 1N HCl (pH 2-3). The organic layer was separated and washed with brine, dried (Na2SO4) and concentrated under vacuum. The residue was purified by column chromatography on silica gel to give a crude product (which contained a small amount of the correspnding (Z)-isomer).

reactant | 4-bromo-2-methylbenzoic acid | 0.12 mol, 25 g | BrC1=CC(=C(C(=O)O)C=C1)C | C8H7BrO2
reactant | tri-o-tolylphosphine | 0.023 mol, 7.1 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | potassium acetate | 0.232 mol, 22.8 g | C(C)(=O)[O-].[K+]
reactant | 3,3,3-trifluoroprop-1-ene | 0.93 mol, 89 g | FC(C=C)(F)F | C3H3F3
reactant | N,N-dimethylacetamide | 1.6 mol, 150 mL | CN(C(C)=O)C | C4H9NO
catalyst | tetra-N-butylammonium chloride | 0.035 mol, 9.7 g | CCCC[N+](CCCC)(CCCC)CCCC.[Cl-]
catalyst | palladium acetate | 0.0058 mol, 1.3 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | (e)-2-methyl-4-(3,3,3-trifluoroprop-1-enyl)benzoic acid | CC1=C(C(=O)O)C=CC(=C1)\C=C\C(F)(F)F | C11H9F3O2
